US09328067B2
methyl 2-[({2-[(1-benzofuran-2-ylsulfonyl)amino]-4-fluorophenyl}sulfanyl)methyl]benzoate
Following General Procedure B, the title compound (1.6 g, 55%) was prepared from methyl 2-(((2-amino-4-fluorophenyl)thio)methyl)benzoate (1.8 g, 6.19 mmol) and benzofuran-2-sulfonyl chloride (1.3 g, 6.19 mmol) in pyridine (10 ml).

reactant | methyl 2-(((2-amino-4-fluorophenyl)thio)methyl)benzoate | 6.19 mmol, 1.8 g | NC1=C(C=CC(=C1)F)SCC1=C(C(=O)OC)C=CC=C1 | C15H14FNO2S
reactant | benzofuran-2-sulfonyl chloride | 6.19 mmol, 1.3 g | O1C(=CC2=C1C=CC=C2)S(=O)(=O)Cl | C8H5ClO3S
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | methyl 2-[({2-[(1-benzofuran-2-ylsulfonyl)amino]-4-fluorophenyl}sulfanyl)methyl]benzoate | 1.6 g, 55% | O1C(=CC2=C1C=CC=C2)S(=O)(=O)NC2=C(C=CC(=C2)F)SCC2=C(C(=O)OC)C=CC=C2 | C23H18FNO5S2
